US05137887
In a mixed solution prepared from 50 ml of ethanol, 10 ml of water and 145 mg of sodium hydroxide were dissolved 1.3 g of (-)-4-hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine with stirring and the solvent was then distilled off under reduced pressure. After addition of 100 ml of ethyl acetate, the mixture was refluxed for 30 minutes. After cooling, the crystals were recovered by filtration and dried to give sodium (-)-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine-4-olate dihydrate.

reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 145 mg | [OH-].[Na+]
reactant | (-)-4-hydroxy-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine | 1.3 g | OC1=NC=NC=2N1N=CC2C2=CC(=C(C=C2)S(=O)C2=CC=CC=C2)OC | C18H14N4O3S
solvent | water | 10 ml | O | H2O
product | sodium (-)-8-(3-methoxy-4-phenylsulfinylphenyl)pyrazolo[1,5-a]-1,3,5-triazine-4-olate dihydrate | O.O.COC=1C=C(C=CC1S(=O)C1=CC=CC=C1)C=1C=NN2C1N=CN=C2[O-].[Na+] | InChI=1S/C18H14N4O3S.Na.2H2O/c1-25-15-9-12(14-10-21-22-17(14)19-11-20-18(22)23)7-8-16(15)26(24)13-5-3-2-4-6-13;;;/h2-11H,1H3,(H,19,20,23);;2*1H2/q;+1;;/p-1
